** Complete LVS reference netlist for soilz
** Auto-generated from netlist.json + device_lib.json
** 257 devices: 123 NMOS, 127 PMOS, 4 R

.subckt soilz gnd vdd bias_n buf1 buf_ref_I
+ buf_ref_Q c_di_n c_di_p c_tail cas1 cas2 cas3 cas_ref chop_out comp_clk
+ comp_outn comp_outp da1 dac_hi dac_lo dac_out db1 div16_I div16_I_b div16_Q
+ div16_Q_b div2_I div2_I_b div2_Q div2_Q_b div4_I div4_I_b div4_Q div4_Q_b div8
+ div8_b exc_out f_exc f_exc_b f_exc_b_d f_exc_d freq_sel iq_sel lat_q lat_qb
+ mid_p mxfi_selb mxfq_selb mxiq_selb n1_mid n2_mid na_mid nand_a nand_b nb1
+ nb2 nb3 nb4 nb5 nb_mid net_c1 net_c2 net_rptat nmos_bias ns1
+ ns2 ns3 ns4 ns5 ota_out phi_n phi_p pmos_bias probe_n probe_p
+ ref_I ref_Q sel0 sel0b sel1 sel1b sel2 sel2b sens_n sens_p
+ src1 src2 src3 sum_n t1I_m t1I_mb t1I_nmn t1I_nmp t1I_nsn t1I_nsp
+ t1Q_m t1Q_mb t1Q_nmn t1Q_nmp t1Q_nsn t1Q_nsp t2I_m t2I_mb t2I_nmn t2I_nmp
+ t2I_nsn t2I_nsp t2Q_m t2Q_mb t2Q_nmn t2Q_nmp t2Q_nsn t2Q_nsp t3_m t3_mb
+ t3_nmn t3_nmp t3_nsn t3_nsp t4I_m t4I_mb t4I_nmn t4I_nmp t4I_nsn t4I_nsp
+ t4Q_m t4Q_mb t4Q_nmn t4Q_nmp t4Q_nsn t4Q_nsp tail vcas vco1 vco2
+ vco3 vco4 vco5 vco_b vco_buf vco_buf_b vco_out vptat vref_comp vref_ota

MPM3 net_c1 net_c1 vdd vdd sg13_lv_pmos W=0.5u L=50u
MPM4 net_c2 net_c1 vdd vdd sg13_lv_pmos W=0.5u L=50u
MMN1 net_c1 net_c1 gnd gnd sg13_lv_nmos W=2u L=4u
MMN2 net_c2 net_c1 net_rptat gnd sg13_lv_nmos W=16u L=4u
RRptat gnd net_rptat rhigh w=0.5u l=134.09u b=12 m=1
MPM_ref nmos_bias net_c1 vdd vdd sg13_lv_pmos W=0.5u L=50u
MMN_diode nmos_bias nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMN_pgen pmos_bias nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MPM_pdiode pmos_bias pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MPM5 vptat net_c1 vdd vdd sg13_lv_pmos W=0.5u L=50u
RRout gnd vptat rhigh w=0.5u l=100.0u b=1 m=1
MMpb1_f0 ns1 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb1_f1 ns1 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb1_f2 ns1 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb1_f3 ns1 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb1_f4 ns1 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb1_f5 ns1 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb1_f6 ns1 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb1_f7 ns1 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpu1 vco1 vco5 ns1 vdd sg13_lv_pmos W=2u L=0.5u
MMpd1 vco1 vco5 nb1 gnd sg13_lv_nmos W=1u L=0.5u
MMnb1_f0 nb1 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb1_f1 nb1 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb1_f2 nb1 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb1_f3 nb1 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb1_f4 nb1 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb1_f5 nb1 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb1_f6 nb1 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb1_f7 nb1 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMpb2_f0 ns2 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb2_f1 ns2 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb2_f2 ns2 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb2_f3 ns2 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb2_f4 ns2 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb2_f5 ns2 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb2_f6 ns2 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb2_f7 ns2 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpu2 vco2 vco1 ns2 vdd sg13_lv_pmos W=2u L=0.5u
MMpd2 vco2 vco1 nb2 gnd sg13_lv_nmos W=1u L=0.5u
MMnb2_f0 nb2 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb2_f1 nb2 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb2_f2 nb2 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb2_f3 nb2 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb2_f4 nb2 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb2_f5 nb2 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb2_f6 nb2 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb2_f7 nb2 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMpb3_f0 ns3 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb3_f1 ns3 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb3_f2 ns3 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb3_f3 ns3 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb3_f4 ns3 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb3_f5 ns3 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb3_f6 ns3 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb3_f7 ns3 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpu3 vco3 vco2 ns3 vdd sg13_lv_pmos W=2u L=0.5u
MMpd3 vco3 vco2 nb3 gnd sg13_lv_nmos W=1u L=0.5u
MMnb3_f0 nb3 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb3_f1 nb3 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb3_f2 nb3 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb3_f3 nb3 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb3_f4 nb3 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb3_f5 nb3 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb3_f6 nb3 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb3_f7 nb3 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMpb4_f0 ns4 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb4_f1 ns4 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb4_f2 ns4 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb4_f3 ns4 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb4_f4 ns4 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb4_f5 ns4 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb4_f6 ns4 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb4_f7 ns4 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpu4 vco4 vco3 ns4 vdd sg13_lv_pmos W=2u L=0.5u
MMpd4 vco4 vco3 nb4 gnd sg13_lv_nmos W=1u L=0.5u
MMnb4_f0 nb4 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb4_f1 nb4 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb4_f2 nb4 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb4_f3 nb4 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb4_f4 nb4 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb4_f5 nb4 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb4_f6 nb4 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb4_f7 nb4 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMpb5_f0 ns5 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb5_f1 ns5 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb5_f2 ns5 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb5_f3 ns5 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb5_f4 ns5 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb5_f5 ns5 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb5_f6 ns5 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpb5_f7 ns5 pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MMpu5 vco5 vco4 ns5 vdd sg13_lv_pmos W=2u L=0.5u
MMpd5 vco5 vco4 nb5 gnd sg13_lv_nmos W=1u L=0.5u
MMnb5_f0 nb5 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb5_f1 nb5 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb5_f2 nb5 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb5_f3 nb5 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb5_f4 nb5 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb5_f5 nb5 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb5_f6 nb5 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMnb5_f7 nb5 nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMBp1 buf1 vco5 vdd vdd sg13_lv_pmos W=4u L=0.5u
MMBn1 buf1 vco5 gnd gnd sg13_lv_nmos W=2u L=0.5u
MMBp2_f0 vco_out buf1 vdd vdd sg13_lv_pmos W=4u L=0.5u
MMBp2_f1 vco_out buf1 vdd vdd sg13_lv_pmos W=4u L=0.5u
MMBn2_f0 vco_out buf1 gnd gnd sg13_lv_nmos W=2u L=0.5u
MMBn2_f1 vco_out buf1 gnd gnd sg13_lv_nmos W=2u L=0.5u
MPM_cas_ref cas_ref net_c1 vdd vdd sg13_lv_pmos W=1u L=10u
MPM_cas_diode vcas vcas cas_ref vdd sg13_lv_pmos W=1u L=2u
MMN_cas_load vcas vcas gnd gnd sg13_lv_nmos W=0.5u L=2u
MPM_mir1 cas1 net_c1 vdd vdd sg13_lv_pmos W=1u L=10u
MPM_cas1 src1 vcas cas1 vdd sg13_lv_pmos W=1u L=2u
MPM_mir2 cas2 net_c1 vdd vdd sg13_lv_pmos W=2u L=10u
MPM_cas2 src2 vcas cas2 vdd sg13_lv_pmos W=2u L=2u
MPM_mir3 cas3 net_c1 vdd vdd sg13_lv_pmos W=4u L=10u
MPM_cas3 src3 vcas cas3 vdd sg13_lv_pmos W=4u L=2u
MSW1n src1 sel0 exc_out gnd sg13_lv_nmos W=2u L=0.5u
MSW1p src1 sel0b exc_out vdd sg13_lv_pmos W=4u L=0.5u
MSW2n src2 sel1 exc_out gnd sg13_lv_nmos W=2u L=0.5u
MSW2p src2 sel1b exc_out vdd sg13_lv_pmos W=4u L=0.5u
MSW3n src3 sel2 exc_out gnd sg13_lv_nmos W=2u L=0.5u
MSW3p src3 sel2b exc_out vdd sg13_lv_pmos W=4u L=0.5u
MMS1 exc_out phi_p probe_p gnd sg13_lv_nmos W=4u L=0.5u
MMS2 gnd phi_n probe_p gnd sg13_lv_nmos W=4u L=0.5u
MMS3 exc_out phi_n probe_n gnd sg13_lv_nmos W=4u L=0.5u
MMS4 gnd phi_p probe_n gnd sg13_lv_nmos W=4u L=0.5u
MMchop1n sens_p f_exc chop_out gnd sg13_lv_nmos W=2u L=0.5u
MMchop1p sens_p f_exc_b chop_out vdd sg13_lv_pmos W=4u L=0.5u
MMchop2n sens_n f_exc_b chop_out gnd sg13_lv_nmos W=2u L=0.5u
MMchop2p sens_n f_exc chop_out vdd sg13_lv_pmos W=4u L=0.5u
MMbias_d bias_n bias_n gnd gnd sg13_lv_nmos W=4u L=4u
MMp_load_p mid_p mid_p vdd vdd sg13_lv_pmos W=4u L=4u
MMp_load_n ota_out mid_p vdd vdd sg13_lv_pmos W=4u L=4u
MMin_p mid_p vref_ota tail gnd sg13_lv_nmos W=10u L=2u
MMin_n ota_out sum_n tail gnd sg13_lv_nmos W=10u L=2u
MMtail tail bias_n gnd gnd sg13_lv_nmos W=8u L=4u
MMc_tail c_tail comp_clk gnd gnd sg13_lv_nmos W=4u L=0.5u
MMc_inp c_di_p ota_out c_tail gnd sg13_lv_nmos W=4u L=0.5u
MMc_inn c_di_n vref_comp c_tail gnd sg13_lv_nmos W=4u L=0.5u
MMc_rst_dp c_di_p comp_clk vdd vdd sg13_lv_pmos W=2u L=0.5u
MMc_rst_dn c_di_n comp_clk vdd vdd sg13_lv_pmos W=2u L=0.5u
MMc_ln1 comp_outp comp_outn c_di_p gnd sg13_lv_nmos W=1u L=0.5u
MMc_ln2 comp_outn comp_outp c_di_n gnd sg13_lv_nmos W=1u L=0.5u
MMc_lp1 comp_outp comp_outn vdd vdd sg13_lv_pmos W=1u L=0.5u
MMc_lp2 comp_outn comp_outp vdd vdd sg13_lv_pmos W=1u L=0.5u
MMc_rst_op comp_outp comp_clk vdd vdd sg13_lv_pmos W=2u L=0.5u
MMc_rst_on comp_outn comp_clk vdd vdd sg13_lv_pmos W=2u L=0.5u
MMn1a n1_mid comp_outp gnd gnd sg13_lv_nmos W=2u L=0.5u
MMp1a lat_q comp_outp vdd vdd sg13_lv_pmos W=2u L=0.5u
MMn1b lat_q lat_qb n1_mid gnd sg13_lv_nmos W=2u L=0.5u
MMp1b lat_q lat_qb vdd vdd sg13_lv_pmos W=2u L=0.5u
MMn2a n2_mid comp_outn gnd gnd sg13_lv_nmos W=2u L=0.5u
MMp2a lat_qb comp_outn vdd vdd sg13_lv_pmos W=2u L=0.5u
MMn2b lat_qb lat_q n2_mid gnd sg13_lv_nmos W=2u L=0.5u
MMp2b lat_qb lat_q vdd vdd sg13_lv_pmos W=2u L=0.5u
MMdac_tg1n dac_hi lat_q dac_out gnd sg13_lv_nmos W=2u L=0.5u
MMdac_tg1p dac_hi lat_qb dac_out vdd sg13_lv_pmos W=4u L=0.5u
MMdac_tg2n dac_lo lat_qb dac_out gnd sg13_lv_nmos W=2u L=0.5u
MMdac_tg2p dac_lo lat_q dac_out vdd sg13_lv_pmos W=4u L=0.5u
RRin sum_n chop_out rhigh w=0.5u l=20.73u b=2 m=1
RRdac sum_n dac_out rhigh w=0.5u l=20.73u b=2 m=1
CC_fb ota_out sum_n cap_cmim w=26.0u l=26.0u
CCbyp_n nmos_bias gnd cap_cmim w=5.0u l=5.0u
CCbyp_p pmos_bias gnd cap_cmim w=5.0u l=5.0u
MM_bias_mir bias_n pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u

.ends soilz

